US05212295
2-Amino-6-mercapto-9-(β-D-xylofuranosyl)purine
2-Amino-6-chloro-9-(β-D-xylofuranosyl)purine as prepared by the Example 6, Method B, is treated with sodium hydrosulfide to give the title compound.

reactant | 2-Amino-6-chloro-9-(β-D-xylofuranosyl)purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@@H](O)[C@H](O1)CO)Cl | C10H12ClN5O4
reactant | sodium hydrosulfide | [SH-].[Na+]
product | 2-Amino-6-mercapto-9-(β-D-xylofuranosyl)purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@@H](O)[C@H](O1)CO)S | C10H13N5O4S
